US03944566
6,11-Dihydrodibenz[b,e]oxepin-11-yl-ethanol
27 g. (0.096 mol) ethyl 6,11-dihydrodibenz[b,e]-oxepin-11-yl-acetate were added dropwise, with cooling, to a suspension of 3.8 g. (0.1 mol) lithium aluminum hydride in 300 ml. ether. The reaction mixture was subsequently stirred for 2 hours at ambient temperature, decomposed by the addition of a saturated aqueous solution of sodium chloride and the precipitated hydroxides were filtered off with suction and the filtrate was evaporated. The residue consisted of practically pure 6,11-dihydrodibenz[b,e]oxepin-11-yl-ethanol in a yield of 22.4 g. (97.5% of theory). 10 g. of this product were distilled in a high vacuum. There were obtained 9.0 g. of the product with a boiling point of 158° - 159°C./0.2 mm.Hg.

reactant | ethyl 6,11-dihydrodibenz[b,e]-oxepin-11-yl-acetate | 0.096 mol | C1=CC=CC=2OCC3=C(C(C21)CC(=O)OCC)C=CC=C3 | C18H18O3
reactant | lithium aluminum hydride | 0.1 mol | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium chloride | [Cl-].[Na+]
reactant | ether | CCOCC | C4H10O
product | 6,11-Dihydrodibenz[b,e]oxepin-11-yl-ethanol | C1=CC=CC=2OCC3=C(C(C21)C(C)O)C=CC=C3 | C16H16O2
